US09359329B2
14.3. sodium 2-[4-(pyridin-3-ylmethoxy)pyridin-2-yl]-2,6-dihydro-4H-thieno[3,4-c]pyrazol-3-olate
According to the process described in Example 8, starting with 197 mg of 2-hydrazinyl-4-(pyridin-3-ylmethoxy)pyridine and 146 mg of methyl 4-oxotetrahydrothiophene-3-carboxylate, 225 mg of sodium 2-(4-ethylpyridin-2-yl)-2,6-dihydro-4H-thieno[3,4-c]pyrazol-3-olate are obtained in the form of a white lyophilizate.

reactant | 2-hydrazinyl-4-(pyridin-3-ylmethoxy)pyridine | 197 mg | N(N)C1=NC=CC(=C1)OCC=1C=NC=CC1 | C11H12N4O
reactant | methyl 4-oxotetrahydrothiophene-3-carboxylate | 146 mg | O=C1C(CSC1)C(=O)OC | C6H8O3S
reactant | sodium 2-(4-ethylpyridin-2-yl)-2,6-dihydro-4H-thieno[3,4-c]pyrazol-3-olate | 225 mg | C(C)C1=CC(=NC=C1)N1N=C2C(=C1[O-])CSC2.[Na+]
product | sodium 2-[4-(pyridin-3-ylmethoxy)pyridin-2-yl]-2,6-dihydro-4H-thieno[3,4-c]pyrazol-3-olate | N1=CC(=CC=C1)COC1=CC(=NC=C1)N1N=C2C(=C1[O-])CSC2.[Na+] | InChI=1S/C16H14N4O2S.Na/c21-16-13-9-23-10-14(13)19-20(16)15-6-12(3-5-18-15)22-8-11-2-1-4-17-7-11;/h1-7,21H,8-10H2;/q;+1/p-1
